US07459453B2
5-Acetyl-4-{[4-(aminomethyl)phenyl]amino}-2-ethyl-6-phenylpyridazin-3(2H)-one
To a stirred solution of 100 mg (0.348 mmol) of 5-acetyl-2-ethyl-4-nitro-6-phenylpyridazin-3(2H)-one (Dal Piaz, V et al, J. Med. Chem. 1997, 40, 1417) in ethanol (6 ml), (4-aminobenzyl)carbamic acid tert-butyl ester (Gallo-Rodriguez, C et al J. Med. Chem. 1994, 37(5), 636-46) (1.16 mg, 0.52 mmol) was added portionwise. The resulting mixture was stirred at room temperature for 1 h. The precipitate thus formed was collected by filtration and washed with diethylether. Then it was solved in dichloromethane (1 mL) and trifluoroacetic acid (0.23 mL, 3.03 mmol) was added dropwise. The final mixture was stirred at room temperature for 20 minutes. Some more dichloromethane was added and this solution was washed with saturated K2CO3 solution until pH 6. The organic layer was dried and solvent removed to yield 70 mg (54% yield) of the title compound.

reactant | 5-acetyl-2-ethyl-4-nitro-6-phenylpyridazin-3(2H)-one | 0.348 mmol, 100 mg | C(C)(=O)C1=C(C(N(N=C1C1=CC=CC=C1)CC)=O)[N+](=O)[O-] | C14H13N3O4
reactant | (4-aminobenzyl)carbamic acid tert-butyl ester | 0.52 mmol, 1.16 mg | C(C)(C)(C)OC(NCC1=CC=C(C=C1)N)=O | C12H18N2O2
reactant | trifluoroacetic acid | 3.03 mmol, 0.23 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 5-Acetyl-4-{[4-(aminomethyl)phenyl]amino}-2-ethyl-6-phenylpyridazin-3(2H)-one | 70 mg, 54% yield | C(C)(=O)C1=C(C(N(N=C1C1=CC=CC=C1)CC)=O)NC1=CC=C(C=C1)CN | C21H22N4O2
